US06821967B2
b. 9-[4-(4-quinolin-2-yl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-(methoxycarbonyl-methyl)-amide
Prepared analogously to Example 2 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(methoxycarbonyl-methyl)-amide and 2-piperazin-1-yl-quinoline.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(methoxycarbonyl-methyl)-amide | COC(=O)CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr | C21H22BrNO3
reactant | 2-piperazin-1-yl-quinoline | N1(CCNCC1)C1=NC2=CC=CC=C2C=C1 | C13H15N3
product | 9-[4-(4-quinolin-2-yl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-(methoxycarbonyl-methyl)-amide | COC(=O)CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C34H36N4O3
